US06174901B1
Step J: Preparation of 5-m-tolyl-1H-[4,4′]bipyridinyl-2-one:
To a solution of 5-hydroxy-5-m-tolyl-5,6-dihydro-1H-[4,4′]bipyridinyl-2-one (280 mg, 1.0 mmole) in CHCl3 (5 mL) at r.t. was added 1 ml of conc. H2SO4. The resulting mixture was heated to 55° C. for 1 hr. The mixture was cooled down to r.t. and was carefully quenched with aqueous sodium carbonate. Standard work up (extraction of compound with methylene chloride), followed by purification (silica gel, methanol/methylene chloride) gave the title compound. MS (m/z): Calcd. C17H14N2O(M+): 262, found (M+H)+: 263.3.

reactant | 5-hydroxy-5-m-tolyl-5,6-dihydro-1H-[4,4′]bipyridinyl-2-one | 1.0 mmole, 280 mg | OC1(C(=CC(NC1)=O)C1=CC=NC=C1)C=1C=C(C=CC1)C | C17H16N2O2
reactant | H2SO4 | 1 ml | OS(=O)(=O)O | H2O4S
solvent | CHCl3 | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-m-tolyl-1H-[4,4′]bipyridinyl-2-one | C1(=CC(=CC=C1)C=1C(=CC(NC1)=O)C1=CC=NC=C1)C | C17H14N2O
